US07825128B2
b) (RS)—N(ethoxycarbonyl)-(4-{[4-{(3-oxo-butyl)amino}-5-(thiophen-2-yl)-pyrimidin-2-yl]amino}phenyl)-S-methylsulfoximide
(RS)—N(ethoxycarbonyl)-(4-{[4-{(3-hydroxybutyl)amino}-5-(thiophen-2-yl)-pyrimidin-2-yl]amino}phenyl)-S-methylsulfoximide (169 mg, 0.35 mmol) is dissolved in dichloromethane (15 ml) and N-methylmorpholin-N-oxid (123 mg, 1.05 mmol) and molecular sieve (4 A, 496 mg) is added. The mixture is stirred for 15 min at RT. Then tetrapropylammoniumperruthenat (6.3 mg, 0.018 mmol) is added, the reaction mixture is stirred for 24 h at RT. Additional tetrapropylammoniumperruthenat (10.4 mg, 0.03 mmol) is added and the reaction mixture is stirred for 24 h at RT. For workup the mixture is filtered through celite and washed with dichloromethane. The solvent is evaporated resulting in the crude product which is purified by column chromatography: 39 mg, 23%.

reactant | (RS)—N(ethoxycarbonyl)-(4-{[4-{(3-hydroxybutyl)amino}-5-(thiophen-2-yl)-pyrimidin-2-yl]amino}phenyl)-S-methylsulfoximide | 0.35 mmol, 169 mg | C(C)OC(=O)N=S(=O)(C)C1=CC=C(C=C1)NC1=NC=C(C(=N1)NCCC(C)O)C=1SC=CC1 | C22H27N5O4S2
reactant | N-methylmorpholin-N-oxid | 1.05 mmol, 123 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
catalyst | tetrapropylammoniumperruthenat | 0.018 mmol, 6.3 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
catalyst | tetrapropylammoniumperruthenat | 0.03 mmol, 10.4 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | (RS)—N(ethoxycarbonyl)-(4-{[4-{(3-oxo-butyl)amino}-5-(thiophen-2-yl)-pyrimidin-2-yl]amino}phenyl)-S-methylsulfoximide | C(C)OC(=O)N=S(=O)(C)C1=CC=C(C=C1)NC1=NC=C(C(=N1)NCCC(C)=O)C=1SC=CC1 | C22H25N5O4S2
